US07709479B1
Triethylamine was added to a suspension of 3-chloro-4-aminophenol hydrochloride (1.80 g, 10.0 mmol) in tetrahydrofuran (200 ml), benzoyl chloride (3.00 ml, 20.0 mmol) was added and the reaction allowed to stir for 18 hours at ambient temperature. The reaction was filtered and the filtrate was evaporated in vacuo. The residue was dissolved in methanol (200 ml), treated with aqueous potassium carbonate solution (0.6 N, 25 ml, 15 mmol) and the mixture stirred for 4 hours at ambient temperature. Addition of saturated aqueous sodium hydrogen carbonate solution (100 ml) caused precipitation of an off-white solid which was collected by suction filtration. Drying in vacuo yielded N-benzoyl 2-chloro-4-hydroxyaniline (2.08 g, 83% yield) as a pale purple solid:

reactant | 3-chloro-4-aminophenol hydrochloride | 10.0 mmol, 1.80 g | Cl.ClC=1C=C(C=CC1N)O
reactant | benzoyl chloride | 20.0 mmol, 3.00 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | potassium carbonate | 15 mmol, 0.6 N, 25 ml | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogen carbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | N-benzoyl 2-chloro-4-hydroxyaniline | 2.08 g, 83% yield | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C=C1)O)Cl | C13H10ClNO2
